US09447078B2
Coupling of (E)-(2-cyclohexylvinyl)boronic acid with 5-bromonicotinaldehyde following the method used in Example 3 gave (E)-5-(2-cyclohexylvinyl)nicotinaldehyde as a yellow oil. Yield (0.8 g, 69%); 1H NMR (400 MHz, DMSO-d6) δ 10.08 (s, 1H), 8.32 (s, 1H), 8.75 (s, 1H), 8.28 (s, 1H), 6.51-6.38 (m, 2H), 2.26-2.13 (m, 1H), 1.88-1.58 (m, 5H), 1.42-1.18 (m, 5H).

reactant | (E)-(2-cyclohexylvinyl)boronic acid | C1(CCCCC1)/C=C/B(O)O | C8H15BO2
reactant | 5-bromonicotinaldehyde | BrC=1C=NC=C(C=O)C1 | C6H4BrNO
product | (E)-5-(2-cyclohexylvinyl)nicotinaldehyde | C1(CCCCC1)/C=C/C=1C=NC=C(C=O)C1 | C14H17NO
